US04945098
1-Octadecylaminocarbonyloxy-3-[8-(1-methyl-3-imidazolio)octanoyloxy]-2-methylenepropane iodide
1-Octadecylaminocarbonyloxy-3-[8-(1-imidazolyl)octanoyloxy]-2-methylenepropane (from Preparation 33) (0.55 g) was dissolved in chloroform (10 ml). Methyl iodide (6 ml) was added, and the mixture stirred at 22° C. for 24 hours. The mixture was evaporated to dryness in vacuo to give the desired product.

reactant | 1-Octadecylaminocarbonyloxy-3-[8-(1-imidazolyl)octanoyloxy]-2-methylenepropane | 0.55 g | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCCCN1C=NC=C1)=O)=C | C34H61N3O4
reactant | Methyl iodide | 6 ml | CI | CH3I
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Octadecylaminocarbonyloxy-3-[8-(1-methyl-3-imidazolio)octanoyloxy]-2-methylenepropane iodide | [I-].C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCCC[N+]1=CN(C=C1)C)=O)=C | InChI=1S/C35H63N3O4.HI/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-23-26-36-35(40)42-31-33(2)30-41-34(39)25-22-19-18-21-24-27-38-29-28-37(3)32-38;/h28-29,32H,2,4-27,30-31H2,1,3H3;1H
